US07105544B2
1-(4-FLUOROPHENYL)-N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)CYCLOPENTANECARBOXAMIDE
Example 93 was prepared from 1-(4-fluorophenyl)cyclopentanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.43–7.37 (m, 3H), 7.29–7.27 (m, 2H), 7.09 (d, 1H, J=8.4 Hz), 7.04–7.00 (m, 2H), 6.47 (br s, 1H), 3.29 (dd, 2H, J=5.6, 12.0 Hz), 2.94 (d, 2H, J=12.0 Hz), 2.66 (m, 1H), 2.54–2.48 (m, 3H), 2.33–2.30 (m, 2H), 2.29 (s, 3H), 2.03–1.95 (m, 4H), 1.84–1.60 (m, 10H), 1.26 (d, 6H, J=6.8 Hz); ESMS m/e: 508.3 (M+H)+.

reactant | 1-(4-fluorophenyl)cyclopentanecarboxylic acid | FC1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13FO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
product | 1-(4-FLUOROPHENYL)-N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)CYCLOPENTANECARBOXAMIDE | FC1=CC=C(C=C1)C1(CCCC1)C(=O)NCCCN1CCC(CC1)C1=C(C=CC(=C1)NC(C(C)C)=O)C | C31H42FN3O2
